US07728005B2
To (2R)-1-amino-2-propanol (1.25 g) were added di-t-butyl dicarbonate (9.5 g), triethylamine (6.9 ml) and dichloromethane (50 ml), and the mixture was stirred at room temperature for 2 hrs. The mixture was diluted with dichloromethane. After washing with water, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated to give t-butyl (2R)-2-hydroxypropylcarbamate as a crude product. To the obtained crude product (1 g) were added methanesulfonyl chloride (533 μl), triethylamine (1.2 ml) and dichloromethane (15 ml), and the mixture was stirred at 0° C. for 1 hr. The mixture was diluted with dichloromethane. After washing with water, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated to give (1R)-2-[(t-butoxycarbonyl )amino]-1-methylethyl methanesulfonate as a crude product. The entire amount of the obtained crude product was used for the following reaction. To the crude product were added lithium bromide (994 mg) and dimethylformamide (10 ml), and the mixture was stirred at 40° C. for 18 hrs. The mixture was diluted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated to give t-butyl (2S)-2-bromopropylcarbamate as a crude product. The half amount of the obtained crude product was used for the following reaction. To the crude product were added 3-fluorophenol (50 μl), potassium carbonate (150 mg) and DMF (2 ml), and the mixture was stirred overnight at 95° C. The mixture was diluted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated to give t-butyl (2R)-2-(3-fluorophenoxy)propylcarbamate as a crude product. The entire amount of the obtained crude product was used for the following reaction. 4N Solution (2 ml) of hydrogen chloride in dioxane was added to the crude product and, after stirring the mixture at room temperature for 2 hrs, the solvent was evaporated. To the residue were added phenyl isoquinolin-5-ylcarbamate (15 mg) obtained in Step 6 of Example 21, diisopropylethylamine (100 μl) and dimethyl sulfoxide (1 ml), and the mixture was stirred overnight at room temperature. The mixture was diluted with ethyl acetate. After washing with water, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was purified by reversed-phase high performance liquid chromatography (reversed-phase HPLC) (water-acetonitrile, each containing 0.1% trifluoroacetic acid (TFA)) to give the title compound (13 mg).

reactant | (2R)-1-amino-2-propanol | 1.25 g | NC[C@@H](C)O | C3H9NO
reactant | di-t-butyl dicarbonate | 9.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 6.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | t-butyl (2R)-2-hydroxypropylcarbamate | O[C@@H](CNC(OC(C)(C)C)=O)C | C8H17NO3
